US08431604B2
The saponification of N-{[(5-methyl-4H-1,2,4-triazole-3-yl)amino]carbonothioyl}-benzamide in methanolic sodium hydroxide solution, could be performed even at room temperature. The N-(5-methyl-4H-1,2,4-triazole-3-yl)thiourea formed was alkylated with methyl iodide at room temperature and the resulting methyl N-(5-methyl-4H-1,2,4-triazole-3-yl)imidothiocarbamate was liberated by extraction of the organic phase with 1 N NaOH. Finally, the methyl N-(5-methyl-4H-1,2,4-triazole-3-yl)imidothiocarbamate was brought to reaction with 2,6-dimethoxybenzylamine in ethanol at 130° C. in the microwave (100 Watt) and the N-(2,6-dimethoxybenzyl)-N′-(5-methyl-4H-1,2,4-triazole-3-yl)guanidine was isolated following chromatographic purification on preparative HPLC (Merck: Chromolith RP-18E, 100-25; eluent water/acetonitrile/0.1 molar acetic acid).

reactant | N-{[(5-methyl-4H-1,2,4-triazole-3-yl)amino]carbonothioyl}-benzamide | CC=1NC(=NN1)NC(=S)NC(C1=CC=CC=C1)=O | C11H11N5OS
solvent | sodium hydroxide | [OH-].[Na+]
product | N-(5-methyl-4H-1,2,4-triazole-3-yl)thiourea | CC=1NC(=NN1)NC(=S)N | C4H7N5S
